US06713474B2
To 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine (433258) (200 mg) in EtOAc/MeOH (15 ml, 1:1) was added ether.HCl solution (1.0 M, 3 ml). The resulting white precipitate was filtered under a stream of nitrogen and dried in vacuo for 6 hr to leave 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine dihydrochloride (1.4 hydrate) as a white solid (120 mg), m.pt. 304° C (dec.). 1H NMR (D2O, 250 MHz) 8.48(1H, s), 7.69 (1H, s), 7.50-7.58 (4H, m), 7.18-7.34 (5H, m), 5.16 (1H, m), 3.81 (2H, d), 3.46 (2H, m), 2.49 (4H, m).). IR (KBr disc): 3937, 1657, 1231 cm−1.

reactant | 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine | 200 mg | O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCNCC2 | C23H23N5O
reactant | ether | CCOCC | C4H10O
reactant | HCl | 1.0 M, 3 ml | Cl | ClH
solvent | EtOAc MeOH | 15 ml | CCOC(=O)C.CO
product | 5-(4-phenoxyphenyl)-7-(4-piperidyl)-7H-pyrrolo[2,3-d]pyrimidin-4-ylamine dihydrochloride | 120 mg | Cl.Cl.O(C1=CC=CC=C1)C1=CC=C(C=C1)C1=CN(C=2N=CN=C(C21)N)C2CCNCC2 | InChI=1S/C23H23N5O.2ClH/c24-22-21-20(14-28(23(21)27-15-26-22)17-10-12-25-13-11-17)16-6-8-19(9-7-16)29-18-4-2-1-3-5-18;;/h1-9,14-15,17,25H,10-13H2,(H2,24,26,27);2*1H
